US06316500B1
p-Hydroxybenzoic acid (0.724 mole) and sodium hydroxide (0.724 mole) were dissolved in 50% isopropyl alcohol (400 ml). Propargyl bromide (0.724 mole) was added and the solution was heated to reflux for 6 hours. The solution was then cooled and the isopropyl alcohol was removed under vacuum. The residue was taken up in methylene chloride (200 ml), washed with water (200 ml), aturated sodium bicarbonate, saline and dried over magnesium sulfate. Removal of the solvent yielded crude product, which was recrystallized, from CCI4 to give pure propargylparaben. (62.9% yield) m.p. 107-108° C.

reactant | p-Hydroxybenzoic acid | 0.724 mole | OC1=CC=C(C(=O)O)C=C1 | C7H6O3
reactant | sodium hydroxide | 0.724 mole | [OH-].[Na+]
reactant | Propargyl bromide | 0.724 mole | C(C#C)Br | C3H3Br
solvent | isopropyl alcohol | 400 ml | C(C)(C)O | C3H8O
product | propargylparaben | 62.9% yield | C(C#C)OC(=O)C1=CC=C(O)C=C1 | C10H8O3
